US06660742B2
A solution of 2-[4-(N-benzyloxycarbonylamino)-2-(5,6,7-trimethoxyindole-2-carboxamido)naphthalen-1-yl]ethyl chloride (60.0 mg, 0.10 mmol) in THF (10 mL) was added to a suspension of 10% Pd/C (50 mg) in chilled THF (10 mL) and the suspension was hydrogenated under H2 atmosphere at room temperature for 3 days. The suspension was filtered over Celite and the filtrate was concentrated in reduced pressure. Preparative TLC (50% AcOEt-Petroleum ether) afforded 4-(2-chloroethyl)-3-(5,6,7-trimethoxyindole-2-carboxamido)-1-naphthylamine (8.2 mg, 18%) as a pale yellow solid. M.p. 182° C. (decomp.); 1H NMR (CDC3, 500 MHz) δ 9.40 (s, 1H), 8.54 (s, 1H), 7.85 (d, 8.5, 1H), 7.83 (d, 8.0, 1H), 7.53 (t, 7.5, 1H), 7.46 (t, 8.5, 1H), 7.32 (s, 1H), 6.97 (s, 1H), 6.86 (s, 1H), 4.25 (brs, 2H) 4.08 (s, 3H), 3.98 (t, 6.5, 2H), 3.95 (s, 3H), 3.92 (s, 3H), 3.54 (t, 6.5, 2H); IR (neat) 3326, 2927, 2856, 1626, 1590, 1536, 1501, 1466, 1408, 1302, 1240, 1107, 1049, 1000, 907, 832, 756 cm−1. FAB HRMS (NBA) m/z 454.1549 (M+H+, C24H24ClN3O4 requires 454.1534). Anal. Calcd. For C24H24N3O4Cl.1/2H2O: C, 62.20; H, 5.40; N, 9.07. Found: C, 62.39; H, 5.71; N, 8.68.

reactant | 2-[4-(N-benzyloxycarbonylamino)-2-(5,6,7-trimethoxyindole-2-carboxamido)naphthalen-1-yl]ethyl chloride | 0.10 mmol, 60.0 mg | C(C1=CC=CC=C1)OC(=O)NC1=CC(=C(C2=CC=CC=C12)CCCl)NC(=O)C=1NC2=C(C(=C(C=C2C1)OC)OC)OC | C32H30ClN3O6
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | 4-(2-chloroethyl)-3-(5,6,7-trimethoxyindole-2-carboxamido)-1-naphthylamine | 8.2 mg, 18% | ClCCC1=C(C=C(C2=CC=CC=C12)N)NC(=O)C=1NC2=C(C(=C(C=C2C1)OC)OC)OC | C24H24ClN3O4
